US06063782
A solution of 0.35 g (0.0015 mole) of 1-(2-butenyl)-7-choro-2,3-dimethylpyrrolo[2,3-d]pyridazine dissolved in 3.5 ml of 4-fluorobenzylamine was heated at 180° C. for 2.5 hours. After completion of the reaction, the reaction mixture was allowed to cool to room temperature and then poured into ice-water. The aqueous mixture was extracted with dichloromethane. The extract was dried over anhydrous sodium sulfate and the solvent was distilled off under reduced pressure. The residue was purified by column chromatography through silica gel using a 30:1 mixture of chloroform and methanol as an eluent to give 0.22 g of 1-(2-butenyl)-7-(4-fluorobenzylamino)-2,3-dimethylpyrrolo[2,3-d]pyridazine (cis/trans=1/4) as a flesh-colored powder.

reactant | 1-(2-butenyl)-7-choro-2,3-dimethylpyrrolo[2,3-d]pyridazine | 0.0015 mole, 0.35 g | C(C=CC)N1C(=C(C=2C1=C(N=NC2)Cl)C)C | C12H14ClN3
reactant | 4-fluorobenzylamine | 3.5 ml | FC1=CC=C(CN)C=C1 | C7H8FN
product | 1-(2-butenyl)-7-(4-fluorobenzylamino)-2,3-dimethylpyrrolo[2,3-d]pyridazine | 0.22 g | C(C=CC)N1C(=C(C=2C1=C(N=NC2)NCC2=CC=C(C=C2)F)C)C | C19H21FN4
